US06605628B1
5-(4-Chlorophenyl)pent-4-yn-1-ol (35.7 g, 182 mmol), 4-dimethylaminopyridine (8.9 g, 73 mmol), p-toluenesulfonyl chloride (34.7 g, 182 mmol), and 62 ml of triethylamine were combined in 330 ml of dichloromethane at 0° C. The mixture was stirred for 30 min. at 0° then 18 hours at room temperature. Dilution with 200 ml of dichloromethane followed by washing with brine, drying over magnesium sulfate, filtration through silica gel with hexane-ethyl acetate, 8:1, gave a yellow solid on evaporation. Crystallization from ether gave 5-(4-Chlorophenyl)pent-4-yn-1-ol p-toluenesulfonate as colorless crystals (31.7 g, 49% yield). This was converted to the title compound by reaction with sodium iodide in acetone, and was used in subsequent reactions with no further purification; MS m/z 303.9 (M+ calcd. for C11H10ClI=304.6).

reactant | 5-(4-Chlorophenyl)pent-4-yn-1-ol | 182 mmol, 35.7 g | ClC1=CC=C(C=C1)C#CCCCO | C11H11ClO
reactant | p-toluenesulfonyl chloride | 182 mmol, 34.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 62 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 73 mmol, 8.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 330 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-(4-Chlorophenyl)pent-4-yn-1-ol p-toluenesulfonate | 31.7 g, 49% yield | C1(=CC=C(C=C1)S(=O)(=O)OCCCC#CC1=CC=C(C=C1)Cl)C | C18H17ClO3S
